US07884204B2
Process 1 Methyl (2S)-2-[(t-butoxycarbonyl) amino]-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]propionate
PdCl2(dppf) (127 mg), triethylamine (2.14 ml), 4,4,5,5-tetramethyl-1,3,2-dioxaborolan (1.13 ml) and 1,4-dioxane (21 ml) were added to methyl (2S)-2-[(t-butoxycarbonyl)amino]-3-(4-iodophenyl)propionate (1.8 g) and stirred at 100° C. for 14 hours. The reaction solution was diluted with ethyl acetate, washed with water and dried over magnesium sulfate to remove the solvent. The residue was purified with a silica gel chromatography (hexane-ethyl acetate) to obtain the title compound (1.05 g).

reactant | triethylamine | 2.14 ml | C(C)N(CC)CC | C6H15N
reactant | 4,4,5,5-tetramethyl-1,3,2-dioxaborolan | 1.13 ml | CC1(OBOC1(C)C)C | C6H13BO2
reactant | 1,4-dioxane | 21 ml | O1CCOCC1 | C4H8O2
reactant | methyl (2S)-2-[(t-butoxycarbonyl)amino]-3-(4-iodophenyl)propionate | 1.8 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CC1=CC=C(C=C1)I | C15H20INO4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | PdCl2(dppf) | 127 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | Methyl (2S)-2-[(t-butoxycarbonyl) amino]-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]propionate | 1.05 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C21H32BNO6
